US05977097
The compound (12.2 g) obtained in (7) was dissolved in anhydrous acetonitrile (122 ml). To the solution, 1,8-diazabicyclo[5,4,0]-7-undecene (8.02 ml) and acetone cyanohydrin (6.53 ml) were added, followed by heating under reflux for 10 hours. The reaction mixture was diluted with ethyl acetate (1 liter) and washed five times with water (200 ml) and once with a saturated aqueous solution of ammonium chloride (200 ml). The organic layer was dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure, whereby the crude product (9.10 g) was obtained. The resulting crude product was purified by column chromatography (eluent: benzene/ethyl acetate=17/1), whereby (3R)-1-tert-butoxycarbonyl-3-cyanopyrrolidine (4.41 g) was obtained.

reactant | 1,8-diazabicyclo[5,4,0]-7-undecene | 8.02 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | acetone cyanohydrin | 6.53 ml | CC(C#N)(O)C | C4H7NO
reactant | ethyl acetate | 1 liter | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 122 ml | C(C)#N | C2H3N
product | (3R)-1-tert-butoxycarbonyl-3-cyanopyrrolidine | 4.41 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)C#N | C10H16N2O2
